US06395734B1
Tetrakis(triphenylphosphine)palladium (1 g) was added to a mixture of 5 g of 2-methoxyphenylboronic acid, 6.6 g 5-bromo-2-fluoronitrobenzene and 30 mL 2 M sodium carbonate solution in 50 mL toluene and 50 mL ethanol. The mixture was refluxed for 2 hours, concentrated, and the residue extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with water and brine, dried, and concentrated to give a dark green oil which solidified on standing to give crude 4-fluoro-2′-methoxy-3-nitrobiphenyl.

reactant | 2-methoxyphenylboronic acid | 5 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | 5-bromo-2-fluoronitrobenzene | 6.6 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | sodium carbonate | 2 M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluoro-2′-methoxy-3-nitrobiphenyl | FC1=C(C=C(C=C1)C1=C(C=CC=C1)OC)[N+](=O)[O-] | C13H10FNO3
